* UM6K33N NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2010/08/05
****************D G S
.SUBCKT UM6K33N 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 1.24
D2       22 11 DDG
R2        2 22 120
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=0.1
+ KP=71.930E-6
+ RS=300.00E-3
+ RD=0
+ VTO=.86767
+ RDS=50.000E6
+ TOX=2.0000E-6
+ CGSO=185p
+ CGDO=10p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.2
+ ETA=0.0003
+ KAPPA=0
+ NFS=7G
.MODEL DDS D
+ IS=902.67E-15
+ N=1.1748
+ RS=52.526E-3
+ IKF=85.409E-3
+ CJO=8.5443E-12
+ M=.39333
+ VJ=.75126
+ BV=50
+ TT=22n
.MODEL DDG D
+ CJO=11.090E-12
+ M=.64576
+ VJ=.78355
+ N=10000
+ FC=0.1
.MODEL RTH RES
+ TC1=0.0063
+ TC2=0.000022
.ENDS UM6K33N