* source JFEX140_TEST_CIRCUIT
I_I4         SOURCE_NOISE 0 DC 2m  
V_VGS         0 G_JFEX140 0
C_C4         0 SOURCE_NOISE  10p  TC=0,0 
V_VDS         D_JFEX140 0 10
X_U1         D_JFEX140 G_JFEX140 SOURCE_NOISE D_JFEX140 0 JFEX140
