* source OPA862
V_V1         VCC 0 2.5Vdc
V_V2         VEE 0 -2.5Vdc
R_R3         OUT+ N12608  1k TC=0,0 
R_R4         OUT+ OUT-  1k TC=0,0 
R_R5         N12608 0  1k TC=0,0 
X_U1         N14019 N12608 OUT+ OUT- 0 VCC VEE OPA862
V_V3         N14019 0 DC 0Vdc AC 1Vac 
